US08461328B2
Cyclopropylacetic acid (0.300 g, 3.00 mmol), HATU (1.14 g, 3.00 mmol), and diisopropylethylamine (0.627 ml, 3.60 mmol) were added sequentially to a solution of 3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester (1.78 g, 3.00 mmol) in DMF (50 ml) at 25° C. The reaction mixture was stirred for 1.5 h at 25° C., then was concentrated under reduced pressure. The residue was partitioned between half-saturated NaHCO3 (125 ml) and EtOAc (2×150 ml). The combined organic layers were dried over Mg2SO4, filtered, and the filtrate was concentrated under reduced pressure to give crude 3-[1-benzenesulfonyl-5-(2-cyclopropyl-acetylamino)-1H-pyrrolo[2,3-b]pyridin-4-ylamino]-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester as a brown foam. LCMS (Method G, ESI): RT=1.24 min, m+H=676.4. This material was used in the next step below without additional purification or characterization.

reactant | Cyclopropylacetic acid | 3.00 mmol, 0.300 g | C1(CC1)CC(=O)O | C5H8O2
reactant | HATU | 3.00 mmol, 1.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 3.60 mmol, 0.627 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | 3.00 mmol, 1.78 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(CCC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C33H31N5O4S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-[1-benzenesulfonyl-5-(2-cyclopropyl-acetylamino)-1H-pyrrolo[2,3-b]pyridin-4-ylamino]-piperidine-1-carboxylic acid 9H-fluoren-9-ylmethyl ester | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1CC(CCC1)NC1=C2C(=NC=C1NC(CC1CC1)=O)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C38H37N5O5S
